### PR TITLE
[Merged by Bors] - feat: port SetTheory.Lists

### PR DESCRIPTION
**Pull request by qawbecrdtey**
---

Restarting #1363 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Lists.lean [hunk 1]
```diff
@@ -164,55 +168,58 @@ theorem mem_cons {a y l} : a ∈ @cons α y l ↔ a ~ y ∨ a ∈ l := by
...
-  exacts[⟨_, m, e⟩, IH h]
+theorem mem_of_subset' {a} {l₁ l₂ : Lists' α true} (s : l₁ ⊆ l₂) (h : a ∈ l₁.toList) : a ∈ l₂ := by
+  -- Porting note: Previous code was:
+  -- induction' s with _ a a' l l' e m s IH; · cases h
+  -- simp at h; rcases h with (rfl | h)
+  -- exacts[⟨_, m, e⟩, IH h]
+  --
+  -- 'induction' tactic does not support mutually inductive types
+  admit
 #align lists'.mem_of_subset' Lists'.mem_of_subset'
```
Comment (nomeata) [inline Mathlib/SetTheory/Lists.lean:206]: I gave it a shot using explicit recursion, using this:
```
theorem mem_of_subset' {a} : ∀ {l₁ l₂ : Lists' α true} (s : l₁ ⊆ l₂) (h : a ∈ l₁.toList), a ∈ l₂
  | .nil, l₂, Lists'.Subset.nil, h => by cases h
  | .(cons a l), .(l'), @Lists'.Subset.cons _ a a' l l' e m s, h => by
    simp at h
    rcases h with (rfl | h)
    case inl => exact ⟨_, m, e⟩
    case inr => exact mem_of_subset' s h
```
but Lean doesn’t find the recursion argument:
```
fail to show termination for
  
with errors
argument #3 was not used because its type is an inductive family and indices are not variables
  

argument #4 was not used because its type is an inductive family and indices are not variables
  

argument #6 was not used because its type is an inductive family and indices are not variables
  

structural recursion cannot be used

failed to prove termination, use `termination_by` to specify a well-founded relation
```

🤷🏻 was worth a try
```

Comment (nomeata) [reply Mathlib/SetTheory/Lists.lean]: Found a solution, explicit recursion on `l₁` works.

**Comment by nomeata** [comment]
Ok, looks like it is working again.

I am not sure why instance resolution failed in the end, or where the equivalent of https://leanprover-community.github.io/mathlib_docs/init/wf.html#measure_wf went to, but maybe it is still good enough.

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
